US07547691B2
(B). Preparation of racemic 4-(3-aminopropyl)-3-isopropylpiperazine-1-carboxylic acid tert-butyl ester
Using the method of 3-(4-isopropylpiperazin-1-yl)-propylamine, the title compound is synthesized from racemic 3-isopropyl-piperazine-1-carboxylic acid tert-butyl ester and isolated as a tan oil.

reactant | 3-(4-isopropylpiperazin-1-yl)-propylamine | C(C)(C)N1CCN(CC1)CCCN | C10H23N3
reactant | racemic 3-isopropyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)C(C)C | C12H24N2O2
product | racemic 4-(3-aminopropyl)-3-isopropylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCCN)C(C)C | C15H31N3O2
